Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea, fever
 
Major Surgical or Invasive Procedure:
Mid-line placement

 
History of Present Illness:
___ yo M PMhx ___'s Disease complicated by cirrhosis and 
recurrent cholangitis with MDR E. coli presents with 1 day of 
fever 101.5 with rigors, diaphoresis, headache, generalized 
weakness, one episode of nonbloody/nonbilious emesis, dyspnea, 
nonproductive cough, and wheeze.  Patient had sudden onset of 
dyspnea last similar similar to prior episodes of cholangitis.  
Of note, patient was previously doing well on 
suppressive/prophylaxis therapy of rifaxmin, recent switch to 
TMP-SMZ in late ___ due to high cost of rifaximin.   
On ___ night, patient awoke in middle of night drenched in 
sweat; he changed in pajamas and went back to bed. On ___ 
morning at 7:00, he went to put out trash and afterwards had to 
sit to rest for 101-5 minutes.  His wife told him he looked 
terrible, took a temp of 101.  Patient called Dr. ___ 
about above and was told to come to ___ ED for 
workup/culture/antibiotics.  He has also had a brief headache 
for a few days (no neck stiffness) resolved with APAP in ED.  He 
has had "wheeze" ("working to breath") without cough.  He had 
___ dry heaves in the ED.  Patient has normally 2 BMs/day 
without notable change.

ROS: Per HPI, positive for recent travel to ___ on 
___, 2 weeks of tingling in left finger tips and bottom of 
food.  Denies weight/appetite changes, chest pain/palpitations, 
abdominal pain, emesis/hematemesis, melena/hematochezia, 
dysuria/hematuria, change in color of stools or urine, visual or 
hearing changes, and focal weakness.  

In the ED, initial vitals were ___, 100.4, 105, 108/67, 24, 
SaO2 96% on ?NC/CPAP.  Patient later had BP 85/52 and T102.7.  
His total bilirubin was near baseline, patient had no other foci 
of infection, CXR notable for mild volume overload felt to be 
secondary to hydration.  A CVL was placed in his right femoral.  
He was given acetaminophen 1g, 3L NS, 
vancomycin/cefepime/metronidazole.  He was briefly placed on 
NIPPV due to dyspnea but due to feeling better he was trialed on 
4L NC. Vitals on transfer were ___, 98.6, 94, 97/67, 30, 95% on 
4L NC.
 
Past Medical History:
-___ Syndrome with recurrent cholangitis and bacteremia, most 
recent from highly resistant E. coli treated with tigecycline 
(finished late ___  
-Cirrhosis  
-Inguinal hernia repair in ___  
-Depression  
-Osteopenia per patient  
-Seasonal allergies  
-Bee allergy  

 
Social History:
___
Family History:
Mother is alive with heart disease. Father died at ___ of 
?cancer. No family history of liver disease or polycystic kidney 
disease. 
 
Physical Exam:
ADMISSION EXAM:
================
Vitals: Afebrile, 86, 93/66, 20, 96% on 4L
GENERAL: Tired, oriented, no acute distress  
HEENT: Sclera slightly icteric, MMM, oropharynx clear  
NECK: Supple, JVP not elevated, no LAD, no meningeal signs
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi, no signs of respiratory distress
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Soft, non-tender, mildly distended with air, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly, 
umbilical hernia
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  R Fem Line in place C/D/I, no rashes, warm and 
well-perfused
NEURO: A+Ox3, no asterixis, ___ ___ strength, sensation intact 
throughout

DISCHARGE EXAM:
================
Vital Signs: T 97.9, HR 98, BP 118/68, RR 20, SaO2 95% RA
General: Alert, oriented, no acute distress
HEENT: Very mild conjunctival injection of R eye (improved from 
yesterday), open area on medial aspect of R lower eyelid, EOMI, 
no pain with eye movement, no periorbital swelling
Neck: Supple, no JVD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs
Lungs: Breathing comfortably, CTAB
Abd: +BS, mildly distended, soft, nontender, no hepatomegaly. 
Umbilical hernia.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: AAOx3, no asterixis 
 
Pertinent Results:
ADMISSION LABS:
================
___ 11:00PM BLOOD WBC-3.6* RBC-3.89* Hgb-13.2* Hct-38.0* 
MCV-98 MCH-33.9* MCHC-34.7 RDW-14.7 Plt Ct-25*#
___ 11:00PM BLOOD Neuts-88* Bands-4 Lymphs-4* Monos-4 Eos-0 
Baso-0 ___ Myelos-0
___ 01:44AM BLOOD ___ PTT-40.3* ___
___ 09:58AM BLOOD ___
___ 09:58AM BLOOD FacVIII-200
___ 03:16PM BLOOD Glucose-142* UreaN-27* Creat-1.5* Na-136 
K-3.6 Cl-101 HCO3-19* AnGap-20
___ 03:16PM BLOOD ALT-37 AST-58* AlkPhos-57 TotBili-2.6*
___ 03:16PM BLOOD Lipase-22
___ 03:16PM BLOOD cTropnT-<0.01 proBNP-363*
___ 03:16PM BLOOD Albumin-3.7 Calcium-8.7 Phos-0.8*# 
Mg-1.5*
___ 09:58AM BLOOD Hapto-28*
___ 02:56PM BLOOD pO2-88 pCO2-22* pH-7.53* calTCO2-19* Base 
XS--1
___ 02:56PM BLOOD Lactate-3.6*
___ 03:10PM URINE Color-Amber Appear-SlHazy Sp ___
___ 03:10PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 03:10PM URINE RBC-2 WBC-1 Bacteri-FEW Yeast-NONE Epi-1
___ 03:10PM URINE CastGr-2* CastHy-3*
___ 03:10PM URINE Mucous-FEW

DISCHARGE LABS:
================
___ 04:00AM BLOOD WBC-3.6* RBC-3.30* Hgb-10.9* Hct-32.0* 
MCV-97 MCH-33.1* MCHC-34.2 RDW-16.5* Plt Ct-46*
___ 04:00AM BLOOD ___ PTT-35.5 ___
___ 04:00AM BLOOD Glucose-99 UreaN-11 Creat-0.8 Na-141 
K-3.7 Cl-107 HCO3-23 AnGap-15
___ 04:00AM BLOOD ALT-25 AST-24 AlkPhos-71 TotBili-1.0
___ 04:00AM BLOOD Calcium-8.1* Phos-2.8 Mg-1.8

MICROBIOLOGY:
==============
___ 1:30 pm BLOOD CULTURE
**FINAL REPORT ___

Blood Culture, Routine (Final ___: 
ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
Cefazolin interpretative criteria are based on a dosage regimen 
of
2g every 8h. 
ESCHERICHIA COLI.    ___ MORPHOLOGY.  FINAL SENSITIVITIES. 
Cefazolin interpretative criteria are based on a dosage regimen 
of
2g every 8h. 

SENSITIVITIES: MIC expressed in MCG/ML                   
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------  =>32 R     =>32 R
AMPICILLIN/SULBACTAM--    16 I       16 I
CEFAZOLIN-------------   <=4 S      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----  =>16 R     =>16 R

Aerobic Bottle Gram Stain (Final ___: 
Reported to and read back by ___ @ 0249 ON 
___ -
___. 
GRAM NEGATIVE ROD(S). 

Anaerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

___ 2:19 pm BLOOD CULTURE

**FINAL REPORT ___

Blood Culture, Routine (Final ___: 
ESCHERICHIA COLI. 
IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
___. 
ESCHERICHIA COLI.    SECOND MORPHOLOGY. 
IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
___. 

Aerobic Bottle Gram Stain (Final ___: 
Reported to and read back by ___ @ 0249 ON 
___ -
___. 
GRAM NEGATIVE ROD(S). 

Anaerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

___: Blood culture negative
___: Blood culture negative
___: Blood culture negative
___: Blood culture pending
___: Blood culture pending
___: C diff negative

IMAGING/STUDIES:
=================
CTA (___):
IMPRESSION:    
1.  No evidence of central or segmental pulmonary embolism. 
Evaluation of 
subsegmental pulmonary artery is limited due to motion artifact. 
  
2.  Slight interval increase in small bilateral pleural effusion 
with adjacent atelectasis.   
3. ___'s disease with ductal dilatation, cirrhosis, and 
splenomegaly, 
better evaluated on ___ MRI. 

TTE (___):
Conclusions  
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
moderately dilated. Overall left ventricular systolic function 
is normal (LVEF = 65%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
Compared with the report of the prior study (images unavailable 
for review) of ___, the findings are similar.   

TTE (___): 
Findings  
RIGHT ATRIUM/INTERATRIAL SEPTUM: No late contrast seen in left 
heart suggesting absence of intrapulmonary shunting.  
Conclusions  
No late contrast is seen in the left heart (suggesting absence 
of intrapulmonary shunting).  

Chest CT (___):
IMPRESSION:    
1.  Bibasilar atelectasis and small bilateral non-hemorrhagic 
pleural 
effusion.   
2.  Sequelae of ___'s disease with biliary duct dilatation, 
cirrhotic 
liver, and splenomegaly as well as distended gallbladder, better 
characterized on prior MRI from ___. 

___ (___): Negative

CXR (___):
IMPRESSION:    
No acute cardiopulmonary abnormality. 

RUQ US (___): 
IMPRESSION:   
1. Cirrhosis with splenomegaly. No ascites. 
2. Unchanged, marked distention of the gallbladder without 
specific evidence for acute cholecystitis. No intrahepatic 
biliary ductal dilation or gallstones. 
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a past medical 
history significant for ___'s syndrome complicated by 
cirrhosis and recurrent cholangitis with MDR E. coli who 
presented in septic shock and was found to have E. coli 
bacteremia, presumably from a biliary source.

# Septic shock/E. coli bacteremia:  Patient with a history of 
recurrent cholangitis presented with 
fever/tachycardia/leukopenia and ___ not responsive 
to 20mL/kg bolus in setting of suspected infectious source from 
biliary tree.  TBili was elevated but CBD did not appear dilated 
on RUQ ultrasound.  There were no signs or symptoms to suggest 
alternative source of infection.  Patient was admitted to the 
ICU for pressors and was initially started on 
vancomycin/cefepime/Flagyl.  Once blood cultures grew GNR (which 
later speciated to E. coli), vancomycin was discontinued.  
Patient was quickly weaned off pressors.  Once E. coli 
sensitivities returned, patient was narrowed to ceftriaxone.  A 
midline was placed so he could complete a 14 day course of 
ceftriaxone as an outpatient. 

# Cirrhosis:  Patient with known cirrhosis secondary to Caroli 
syndrome.  MELD 22 on admission.  He has a history of esophageal 
variceal bleed in ___.  No signs of bleeding, ascites, or 
encephalopathy on admission.  TBili was 2.6 on admission but 
then normalized.  RUQ ultrasound did not show any biliary ductal 
dilation.  Home diuretics (Lasix 20 mg daily, amiloride 5 mg 
daily) and nadolol were initially held given septic shock, but 
these were later restarted after patient stabilized.   

# Dyspnea/hypoxia:  Patient reported resting dyspnea and was 
initially hypoxic, requiring up to 4L O2.  Work-up included CXR 
(limited study, mild pulmonary edema, no obvious infiltrate), 
chest CT (bibasilar atelectasis, small pleural effusions), TTE 
with bubble (normal EF, bubble study negative, no evidence of 
HPS), and CTA negative for PE.  Diuresis was trialed.  Patient's 
dyspnea resolved and he was able to be weaned off O2. 

# Pancytopenia:  On review of OMR, patient has a chronic 
pancytopenia, likely secondary to cirrhosis.  WBC and Hg were 
near baseline but thrombocytopenia was worse than baseline, 
likely a stress response in the setting of sepsis.  There was no 
clinical or laboratory evidence of DIC.  SQ heparin was held.  
All cell lines improved.

# HSV lesions:  Patient had three HSV lesions on his face, 
including one near his right eye with associated conjunctivitis. 
 He was evaluated by ophthalmology and started on po acyclovir 
400 mg tid.  He will complete a 10 day course.  He was also 
given erythromycin ointment and artificial tears for comfort.  
His conjunctivitis improved.

# Depression:  Citalopram was held given 
coagulopathy/thrombocytopenia.  It was restarted on discharge.

TRANSITIONAL ISSUES:
=====================
-Patient recently changed his prophylactic antibiotics from 
rifaximin to Bactrim as his insurance change would not allow an 
affordable copay. Salix pharmaceuticals has given him a free 10 
day supply while the liver transplant clinic tries to work with 
his insurance company to make this medication more affordable. 
He will resume prophylactic antibiotics once he finishes his 
course of ceftriaxone.
-Pt's PCP wrote the ceftriaxone prescription and faxed it to the 
___ where he will get his daily dose. 
They have coordinated with their ED to get him infusions on the 
weekend. First dose with their clinic will be 2 pm on ___.
-Will complete 10 day course of acyclovir and erythromycin for 
conjunctivitis. If symptoms do not resolve he can follow up with 
ophtho as an outpatient. Erythromycin ointment finishes ___, 
acyclovir finishes ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO BID 
2. Citalopram 20 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. Ursodiol 600 mg PO BID 
5. Nadolol 20 mg PO DAILY 
6. Amiloride HCl 5 mg PO DAILY 
7. Loratadine 10 mg Oral daily 
8. Magnesium Oxide 400 mg PO DAILY 

 
Discharge Medications:
1. Amiloride HCl 5 mg PO DAILY 
2. Ascorbic Acid ___ mg PO BID 
3. Furosemide 20 mg PO DAILY 
4. Ursodiol 600 mg PO BID 
5. Acyclovir 400 mg PO Q8H Duration: 10 Days 
Last day ___ 
RX *acyclovir 400 mg 1 tablet(s) by mouth three times a day Disp 
#*26 Tablet Refills:*0
6. Artificial Tear Ointment 1 Appl RIGHT EYE PRN pain irritation 

RX *artificial tears ointment [Artificial Tears]  1 drop daily 
Refills:*0
7. CeftriaXONE 2 gm IV Q24H 
8. Citalopram 20 mg PO DAILY 
9. Loratadine 10 mg Oral daily 
10. Magnesium Oxide 400 mg PO DAILY 
11. Nadolol 20 mg PO DAILY 
12. Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE TID Duration: 
10 Days 
right eye and lower lid
3x/day.  Last day ___ 
RX *erythromycin 5 mg/gram (0.5 %) 1 cm three times a day 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
-E. Coli bacteremia
-Septic Shock

Secondary
-Caroli syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ for 
infection in your biliary tree.  We gave you antibiotics and you 
improved.  The infection spread to your blood which will require 
IV antibiotics for 2 weeks.  We have set you up with the 
community clinic at ___ to continue your IV 
antibiotics through ___.  During the weekends, you will go 
to the ___ room who will infuse the 
medication.  

If there is any problems with the mid-line (irritation, redness, 
pain), please call your pcp's office or go to the emergency room

It was a pleasure taking care of you
-___ Team
 
Followup Instructions:
___